US09422261B2
(2,4-bis(benzyloxy)phenyl)(pyridin-2-yl)methanol
1.6 M n-butyllithium solution in hexane (9.3 ml; 14.9 mmol; 1.1 eq) is added dropwise to a solution of compound (12) (5 g; 13.5 mmol; 1.0 eq) in 130 ml of anhydrous THF cooled to −78° C. The solution is stirred for 1 hour at −78° C. and then 2-formylpyridine (4.5 ml; 47.3 mmol; 3.5 eq) is added dropwise. The solution is stirred for 3 hours at −78° C., then for 15 hours at room temperature, and then 800 ml of water is added. The precipitate obtained is filtered using a Buchner funnel, dried under vacuum and then purified by chromatography on silica gel (eluent: cyclohexane/ethyl acetate: 7:3) to lead to compound (13) (3.65 g; 70%) obtained as a beige solid.

reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | hexane | 14.9 mmol, 9.3 ml, 1.1 eq | CCCCCC | C6H14
reactant | 2-formylpyridine | 47.3 mmol, 4.5 ml, 3.5 eq | C(=O)C1=NC=CC=C1 | C6H5NO
reactant | water | 800 ml | O | H2O
reactant | THF | 130 ml | C1CCOC1 | C4H8O
product | (2,4-bis(benzyloxy)phenyl)(pyridin-2-yl)methanol | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C(O)C1=NC=CC=C1 | C26H23NO3
